US07384945B2
2-Phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid 4-trifluoromethoxy-benzylamide
0.16 mmol of 2-phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid were dissolved in 1 ml THF with 1 eq. DIC. After 15 min 1.5 eq of 4-trifluormethoxy-benzylamine were added and the reaction stirred at room temperature for 16 h. The crude material was purified via reversed phase preparative HPLC. MS(ISP): 616.3 (M+H)+.

reactant | 2-phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid | 0.16 mmol | O(C1=CC=CC=C1)CC1=NC2=C(N1CC1=CC=C(C=C1)OC(F)(F)F)C=CC(=C2)C(=O)O | C23H17F3N2O4
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
reactant | 4-trifluormethoxy-benzylamine | 1.5 eq | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-Phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid 4-trifluoromethoxy-benzylamide | FC(OC1=CC=C(CNC(=O)C2=CC3=C(N(C(=N3)COC3=CC=CC=C3)CC3=CC=C(C=C3)OC(F)(F)F)C=C2)C=C1)(F)F | C31H23F6N3O4
